US04061542
An aqueous solution of 2-methyl-L-ornithine was adjusted to pH 5 with hydrochloric acid, concentrated and diluted with ethanol to yield 2-methyl-L-ornithine hydrochloride as prisms, 165 mg. (0.90 mmol, 73%) m.p. 222°-224° C.

reactant | 2-methyl-L-ornithine | C[C@](N)(CCCN)C(=O)O | C6H14N2O2
reactant | hydrochloric acid | Cl | ClH
product | 2-methyl-L-ornithine hydrochloride | Cl.C[C@](N)(CCCN)C(=O)O | InChI=1S/C6H14N2O2.ClH/c1-6(8,5(9)10)3-2-4-7;/h2-4,7-8H2,1H3,(H,9,10);1H/t6-;/m0./s1
